US06908926B1
A mixture of histamine dihydrochloride (1.85 g, 10.0 mmol), water (10 mL), potassium hydroxide (1.72 g, 30.0 mmol), ethanol (25 mL) and 4-isopropylbenzaldehyde (1.62 g, 10.91 mmol) was heated to reflux for 1.5 h. Ethanol was evaporated and the residue was diluted with water (40 mL). Extraction (5×25 mL DCM), washing of the combined extracts (2×50 mL brine) and drying (MgSO4) yielded 2.29 g (87%) of crude 4-(4-isopropylphenyl)-4,5,6,7-tetrahydro-imidazo[4,5-c]pyridine, which was used for the next synthetic step without further purification. This amine (0.48 g, 1.99 mmol) was dissolved in DCM (5 mL) and added to a 30 min old mixture of 3-(4-fluorophenyl)propionic acid (0.31 g, 1.84 mmol), HOBt (0.27 g, 1.20 mmol) and EDC (0.42 g, 12.19 mmol) in DCM (10 mL). After 18 h the mixture was washed with water (50 mL), dried (MgSO4) and concentrated. The crude product was purified by column chromatography (silica gel, gradient elution with DCM/methanol). 0.24 g (33%) of the title amide was obtained.

reactant | histamine dihydrochloride | 10.0 mmol, 1.85 g | Cl.Cl.NCCC1=CNC=N1
reactant | water | 10 mL | O | H2O
reactant | potassium hydroxide | 30.0 mmol, 1.72 g | [OH-].[K+]
reactant | 4-isopropylbenzaldehyde | 10.91 mmol, 1.62 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-(4-isopropylphenyl)-4,5,6,7-tetrahydro-imidazo[4,5-c]pyridine | 2.29 g, 87% | C(C)(C)C1=CC=C(C=C1)C1NCCC2=C1N=CN2 | C15H19N3
